US07696231B2
a) Preparation of tert-butyl 2-{4-[(4-methoxy-4-oxobutanoyl)amino]benzoyl}hydrazinecarboxylate (Compound B of Scheme 2)
To a solution of tert-butyl 2-(4-aminobenzoyl)hydrazinecarboxylate (500 mg, 1.99 mmol) in anhydrous pyridine (10 mL) was added dropwise 3-carbomethoxypropionyl chloride (Fluka) (300 μL) at rt. After 60 min, aminomethyl resin (Polymers Laboratories PL-AMS, 1.96 mmol/g, 400 mg) was added and the resulting mixture was stirred overnight at rt. After filtration and rinsing the resin, water (80 mL) was added into the filtrate and a white solid precipitated out. Filtration and washing with water gave a white solid, which was dried under vacuo at 70° C. for 2 hrs. The title compound (461 mg) was obtained as a white solid (63%) in 96.0% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | tert-butyl 2-(4-aminobenzoyl)hydrazinecarboxylate | 1.99 mmol, 500 mg | NC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1 | C12H17N3O3
reactant | 3-carbomethoxypropionyl chloride | 300 μL | C(=O)(OC)CCC(=O)Cl | C5H7ClO3
solvent | pyridine | 10 mL | N1=CC=CC=C1 | C5H5N
product | tert-butyl 2-{4-[(4-methoxy-4-oxobutanoyl)amino]benzoyl}hydrazinecarboxylate | 461 mg | COC(CCC(=O)NC1=CC=C(C(=O)NNC(=O)OC(C)(C)C)C=C1)=O | C17H23N3O6
